US08487108B2
A solution of methyl 2-((R)—((R)-1-((1S,2R)-1-cyclohexyl-1-hydroxy-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate in 20% (V/V) CH2Cl2 (1 mL) was stirred for 1 h. The solution was evaporated under reduced pressure and the residue purified via prep HPLC to afford methyl 2-((R)—((R)-1-((1S,2R)-1-cyclohexyl-1-hydroxy-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate (1.01 mg).

reactant | methyl 2-((R)—((R)-1-((1S,2R)-1-cyclohexyl-1-hydroxy-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | C1(CCCCC1)[C@@H]([C@@H](CN(C(=O)OC(C)(C)C)C)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1)O | C32H52N4O7
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((R)—((R)-1-((1S,2R)-1-cyclohexyl-1-hydroxy-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | 1.01 mg | C1(CCCCC1)[C@@H]([C@@H](CNC)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1)O | C27H44N4O5
